US04843068
2-phenoxyethyl 4-[{5-(4-fluorophenoxy)-1,3-dimethylpyrazol-4-yl}methyleneaminooxymethyl]benzoate (compound No. 142)
2.0 Grams (0.008 mole) of 5-(4-fluorophenoxy)-1,3-dimethylpyrazole-4-carbaldehyde oxime was dissolved in 20 ml of dimethyl sulfoxide, and after adding 0.65 g (0.0116 mole) of powdery potassium hydroxide, the resulting solution was stirred at 30° C. for 30 minutes. To this solution was added 2.5 g (0.00865 mole) of 2-phenoxyethyl 4-chloromethylbenzoate, and reaction was carried out at from 50° to 60° C. for 1 hour. After completion of the reaction, water was added to the reaction solution which was then extracted with ethyl acetate. The ethyl acetate extract was washed with water and dried, and ethyl acetate was removed by evaporation to obtain an oily product. This oily product was column-chromatographed on silica gel to obtain 3.0 g of the desired compound.

reactant | 5-(4-fluorophenoxy)-1,3-dimethylpyrazole-4-carbaldehyde oxime | 0.008 mole | FC1=CC=C(OC2=C(C(=NN2C)C)C=NO)C=C1 | C12H12FN3O2
reactant | potassium hydroxide | 0.0116 mole, 0.65 g | [OH-].[K+]
reactant | 2-phenoxyethyl 4-chloromethylbenzoate | 0.00865 mole, 2.5 g | ClCC1=CC=C(C(=O)OCCOC2=CC=CC=C2)C=C1 | C16H15ClO3
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 2-phenoxyethyl 4-[{5-(4-fluorophenoxy)-1,3-dimethylpyrazol-4-yl}methyleneaminooxymethyl]benzoate | 3.0 g, Yield 75.0% | FC1=CC=C(OC2=C(C(=NN2C)C)C=NOCC2=CC=C(C(=O)OCCOC3=CC=CC=C3)C=C2)C=C1 | C28H26FN3O5
